US09359362B2
(rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate
Under an atmosphere of argon, ethyl 3-amino-1H-1,2,4-triazole-5-carboxylate (700 mg, 4.4 mmol) and ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate (1.18 g, 4.9 mmol, 1.1 eq.) were dissolved in DMF (5 ml), and solid sodium bicarbonate (1.86 g, 22.1 mmol, 5 eq.) was added. The mixture was stirred at 55° C. for 6 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (1.3 g, 80% of theory).

reactant | ethyl 3-amino-1H-1,2,4-triazole-5-carboxylate | 4.4 mmol, 700 mg | NC1=NNC(=N1)C(=O)OCC | C5H8N4O2
reactant | ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate | 4.9 mmol, 1.18 g, 1.1 eq. | C(#N)C1=CC=C(C=C(C(=O)OCC)C(C)=O)C=C1 | C14H13NO3
reactant | sodium bicarbonate | 22.1 mmol, 1.86 g, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C(=O)OCC)C)C(=O)OCC | C19H19N5O4
